US06248755B1
Step A: 1-(4-((2,4-Difluorophenyl)-hydroxyimino-methyl)piperidin-1-yl)ethanone
The title compound was prepared from 1-(4-(2,4-difluoro-benzoyl)piperidin-1-yl)ethanone, hydroxylamine hydrochloride and sodium acetate in refluxing EtOH.

reactant | 1-(4-(2,4-difluoro-benzoyl)piperidin-1-yl)ethanone | FC1=C(C(=O)C2CCN(CC2)C(C)=O)C=CC(=C1)F | C14H15F2NO2
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 1-(4-((2,4-Difluorophenyl)-hydroxyimino-methyl)piperidin-1-yl)ethanone | FC1=C(C=CC(=C1)F)C(C1CCN(CC1)C(C)=O)=NO | C14H16F2N2O2
